US05888531
(S,S)-4-[2-Benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl1-3-[3-(4-guanidinobenzoylamino)propyl]-2-oxopiperazine-1-acetic acid hydrochloride
In 50 ml of a 50% aqueous solution of dioxane was dissolved 0.5 g of (S,S)-3-(3-aminopropyl)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl1-2-oxopiperazine-1-acetic acid produced in Reference Example 35. To the solution was added 0.24 g of NaHCO3, to which was then added 0.377 g of 4-guanidinobenzoic acid 3,5-dioxo-4-azatricyclo[5,2,1,0 2,6)deca-8-en-4-yl ester hydrochloride. The mixture was stirred for two hours at room temperature. The pH of the reaction mixture was adjusted to 3 with 1N-HCl, followed by distilling off dioxane. The residue was purified by means of a column chromatography (eluting with H2O→10% aqueous solution of CH3CN→a 20% aqueous solution of CH3CN→a 50% aqueous solution of CH3CN) to afford 0.43 g of the title compound.

reactant | (S,S)-3-(3-aminopropyl)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl1-2-oxopiperazine-1-acetic acid | 0.5 g | NCCC[C@H]1C(N(CCN1C([C@H](CC1=CC=C(C=C1)OC)NC(=O)OCC1=CC=CC=C1)=O)CC(=O)O)=O | C27H34N4O7
reactant | NaHCO3 | 0.24 g | C(=O)(O)[O-].[Na+]
reactant | 4-guanidinobenzoic acid 3,5-dioxo-4-azatricyclo[5,2,1,0 2,6)deca-8-en-4-yl ester hydrochloride | 0.377 g | Cl.O=C1C2C3C=CC(C2C(N1OC(C1=CC=C(C=C1)NC(=N)N)=O)=O)C3
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S,S)-4-[2-Benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl1-3-[3-(4-guanidinobenzoylamino)propyl]-2-oxopiperazine-1-acetic acid hydrochloride | 0.43 g | Cl.C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N1[C@H](C(N(CC1)CC(=O)O)=O)CCCNC(C1=CC=C(C=C1)NC(=N)N)=O)CC1=CC=C(C=C1)OC | InChI=1S/C35H41N7O8.ClH/c1-49-27-15-9-23(10-16-27)20-28(40-35(48)50-22-24-6-3-2-4-7-24)32(46)42-19-18-41(21-30(43)44)33(47)29(42)8-5-17-38-31(45)25-11-13-26(14-12-25)39-34(36)37;/h2-4,6-7,9-16,28-29H,5,8,17-22H2,1H3,(H,38,45)(H,40,48)(H,43,44)(H4,36,37,39);1H/t28-,29-;/m0./s1
